US09169242B2
Step 1: 3-Bromo-4-methylbenzohydrazide:
A mixture of methyl-3-bromo-4-methylbenzoate (5.0 g, 21.8 mmol, 1.0 eq) and hydrazine hydrate (5 mL, 99 mmol, 4.5 eq) in methanol (50 mL) was heated to 80° C. overnight. The reaction mixture was cooled to room temperature and filtered. The filtrate was evaporated under vacuum. The residue was taken in ethyl acetate (100 mL) and washed with water (2×50 mL), brine (50 mL), dried (Na2SO4) and filtered. The filtrate was evaporated under reduced pressure to afford 2.5 g (50%) of the desired product as a white solid. 1HNMR (400 MHz, DMSO-d6) δ 9.84 (s, 1H, D2O exchangeable), 8.02 (d, J=1.0 Hz, 1H), 7.74 (dd, J=1.0, 8.0 Hz, 1H), 7.44 (d, J=8.0 Hz, 1H), 3.35 (s, 2H, D2O exchangeable), 2.38 (s, 3H); ESI-MS (m/z) 229, 231 [(MH)+, Br79,81].

reactant | methyl-3-bromo-4-methylbenzoate | 21.8 mmol, 5.0 g, 1.0 eq | COC(C1=CC(=C(C=C1)C)Br)=O | C9H9BrO2
reactant | hydrazine hydrate | 99 mmol, 5 mL, 4.5 eq | O.NN
solvent | methanol | 50 mL | CO | CH4O
product | 3-Bromo-4-methylbenzohydrazide | 2.5 g, 50% | BrC=1C=C(C(=O)NN)C=CC1C | C8H9BrN2O
